Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
___ angiography with deployment of 1 DES to the mid 
RCA
 
History of Present Illness:
___ year old man with H/O chronic atrial fibrilation on 
rivaroxaban (Xarelto) and dofetilide, CAD s/p prior MI’s, PCIs 
to LAD and RCA (most recently in ___ in ___ who presents 
with chest pain. 

Patient reported ___ weeks of intermittent chest pain with 
activity as well as at rest. He developed chest pain while 
golfing yesterday which persisted. After taking a nitroglycerin, 
the chest pain resolved. This prompted him to proceed to the BID 
___. He was found to be in atrial fibrillation with a 
rapid ventricular rate that was subsequently controlled with 
metoprolol. Troponin was negative x 3. On a stress 
echocardiogram, he exercised for 6:16 minutes ___ METS) with 
borderline ST changes, stopping for fatigue. At 1 minute into 
recovery, patient developed ___ chest discomfort, low on the 
left side of his chest. This persisted until 4 minutes of 
recovery, at which point it resolved spontaneously. Resting 
images demonstrated hypokinesis of the basal to distal inferior 
wall, and basal to mid septal and inferolateral walls with LVEF 
40%. Post-exercise images demonstrated new regional dysfunction 
with new akinesis of the basal to distal inferior wall 
(previously hypokinetic). There was improvement in function of 
the basal septal wall, previously hypokinetic, however there was 
otherwise an overall very subtle increased LV dilation with 
stress. There was augmentation of right ventricular free wall 
motion.

Patient was currently pain free and NPO after MN. Last dose 
Xarelto yesterday morning. VS prior to transfer: BP 120/65, VR 
93, SaO2 96% on room air, afebrile, RR 16. Coronary angiography 
showed in-stent re-stenosis in RCA. Patient had DES placed to 
the mid RCA and was started on clopidogrel.

On arrival to the cardiology ward, patient was chest pain free. 
He denied shortness of breath or palpitations.

ROS: positive as above; denied fevers, chills, shortness of 
breath, palpitations, nausea, vomiting diarrhea, ___ edema
 
Past Medical History:
-atrial fibrillation on rivaroxaban (Xarelto)
-atrial flutter s/p ablation
-mild aortic stenosis
-CAD s/p RCA stenting (most recently ___ in FL) and LAD 
stenting
-hypertension
-hyperlipidemia
-Prior pulmonary embolus
-S/P bilateral knee surgery
-GERD
-sleep apnea (on CPAP)
 
Social History:
___
Family History:
Mother and father with MIs. Sister with ovarian cancer. Brother 
with lung cancer.
 
Physical Exam:
On admission
General: Well appearing elderly white man, pleasant, in NAD
Vitals: T 97.4, BP 152/103, VR 91-107, Sao2 98% on RA
HEENT: MMM, anicteric sclera, EOMI
Neck: supple, JVP 2-3 cm above clavicle
CV: irregularly irregular; no murmurs, rubs or gallops
Lungs: CTAB--no wheezes, crackles or rhonchi
Abdomen: +BS, soft, non-tender, not distended
GU: no Foley
Extr: Right TR band in place, trace ___ edema
Skin: ___ with chronic venous stasis changes

At discharge
General: well appearing man, pleasant, in NAD
Vitals: T 97.8, BP 121/62, VR 114, SaO2 95% on RA
Tele: atrial fibrillation with VR ___ 
Neck: supple, JVP 2-3 cm above clavicle
CV: irregularly irregular; no murmurs, rubs or gallops
Lungs: CTAB--no wheezes, crackles or rhonchi
Abdomen: +BS, soft, non-tender, not distended
GU: no Foley
Extr: Right radial arteriotomy site clean, dry and intact; trace 
___ edema
Skin: ___ with chronic venous stasis changes
 
Pertinent Results:
___ 04:40PM BLOOD cTropnT-<0.01

___ 05:20AM BLOOD WBC-7.3 RBC-4.59* Hgb-13.7 Hct-41.4 
MCV-90 MCH-29.8 MCHC-33.1 RDW-14.6 RDWSD-47.4* Plt ___
___ 05:20AM BLOOD Glucose-96 UreaN-21* Creat-0.9 Na-139 
K-4.1 Cl-105 HCO3-23 AnGap-15
___ 05:20AM BLOOD CK-MB-2 cTropnT-<0.01

ECG ___ 5:35:34 ___
Baseline artifact. Supraventricular tachycardia, possibly 
atypical flutter at 300 beats per minute with predominantly 2:1 
and occasional 3:1 and 4:1 conduction with a net ventricular 
rate of 95 beats per minute. Q waves in leads III and aVF 
consistent withe prior myocardial infarction. Non-specific 
repolarization abnormalities in the inferolateral leads. 
Compared to the previous tracing of ___ a supraventricular 
tachycardia with predominatly 2:1 conduction has replaced sinus 
bradycardia with P-R interval prolongation. Non-specific 
repolarization abnormalities are more pronounced. Apical R wave 
progression is worse, most likely due to differences in apical 
elecrode placement rather than interval infarction. J point 
elevation persists in leads V2-V4.

Cardiac Catheterization ___
Coronary Anatomy
Dominance: Right
* Left Main Coronary Artery: The LMCA is calcified with mild 
diffuse disease.
* Left Anterior Descending: The LAD is heavily calcified with 
diffuse 40-50% stenosis.
* Circumflex: The Circumflex is small and free of significant 
disease.
* Ramus: The Ramus has proximal 70% stenosis.
* Right Coronary Artery: The RCA is very heavily calcified. 
There is mid 90% in-stent restenosis.
Interventional Details
  Guide support and engagement were challenging. We could not 
torque a AL 0.75 or AR 1 guide into position and a JR 4 provided 
limited support. The lesion was wired with a CPT XS wire 
positioned in the RPL. Balloon delivery was difficult but the 
lesion was predilated with 2.5 x 12 and 3.0 x 12 NC balloon at 
up to 14 ATM.  With use a Guideliner a 3.0 x 16 Promus DES was 
delivered with moderate difficulty and just covered the lesion. 
It was deployed at 14 ATM and post-dilated with 3.0 x 12 NC 
balloon at 14 ATM x 2. Final angiography showed distal ___ 
stenosis beyond the stent, no dissection and TIMI 3 flow without 
evidence of dissection, rupture or perforation.
Intra-procedural Complications: None
Impressions:
1. Two vessel CAD with severe RCA in-stent restenosis. 
2. Successful ___.
Recommendations
1. ASA 81 mg daily. 
2. Plavix 75 mg daily.
3. ___ resume rivaroxaban. After 3 months consider stopping 
aspirin or Plavix.
 
Brief Hospital Course:
___ year old man with H/O chronic atrial fibrillation on 
rivaroxaban (Xarelto) and dofetilide, CAD s/p prior MI’s, PCIs 
to LAD and RCA who presents with chest pain consistent with 
biomarker negative unstable angina and transferred to ___ 
after a positive stress echocardiogram.

ACTIVE MEDICAL ISSUES:
# CAD: Patient S/P multiple PCIs to LAD and RCA, most recently 
had in-stent restenosis treated in ___ in ___. Patient now 
presented with chest pain, negative troponins and no EKG changes 
but had a positive stress test with inducible inferior ischemia 
on top of a prior infarct. Patient was transferred to ___ 
where angiography showed in-stent restenosis in the RCA treated 
with a DES. 

Original plan had been for triple therapy with ASA, clopidogrel 
and rivaroxaban but given unknown risk of bleeding on triple 
therapy with novel anticoagulants, his rivaroxaban was switched 
to warfarin. Given that patient was discharged over the weekend, 
we were unable to confirm that his primary care doctor ___. 
___ be able to manage his INR so referral to the ___ 
___ was placed. Patient did state he had been 
on warfarin in the past which was previously managed by Dr. 
___. Patient discharged on warfarin 5 mg and given lab 
script to have his INR on ___. He was continued on ASA and 
clopodigrel. Home atorvastatin dose increased given severity of 
CAD.

# Atrial fibrillation: He presented to ___ with atrial 
fibrillation with rapid ventricular rate. HR well controlled 
while inpatient but remained in atrial fibrillation. He was 
continued on dofetilide and metoprolol. Plan is for for future 
admission to increase dofetilide to 375 mcg q12h while 
monitoring the QT interval.

CHRONIC MEDICAL ISSUES
# GERD: Pt continued on home PPI

# Hyperlipidemia: Patient's home statin regimen was increased 
given his CAD.  

# Hypertension: Patient continued on home moexapril 15 mg daily 
in addition to metoprolol.

TRANSITIONAL ISSUES:
[] Clopidogrel started
[] Rivaroxaban (Xeralto) switched to warfarin
[] INR check on ___
[] Atorvastatin dose increased
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO QPM 
2. Dofetilide 250 mcg PO Q12H 
3. Metoprolol Succinate XL 100 mg PO BID 
4. Moexipril 15 mg PO DAILY 
5. Pantoprazole 40 mg PO Q24H 
6. Aspirin 81 mg PO DAILY 
7. Rivaroxaban 20 mg PO DAILY 
 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Dofetilide 250 mcg PO Q12H 
3. Metoprolol Succinate XL 100 mg PO BID 
4. Moexipril 15 mg PO DAILY 
5. Pantoprazole 40 mg PO Q24H 
6. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
7. Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
8. Warfarin 5 mg PO DAILY16 
RX *warfarin 5 mg 1 tablet(s) by mouth daily Disp #*15 Tablet 
Refills:*0
9. Outpatient Lab Work
ICD-9 427.31 (AFIB).
Responsible provider: ___
Please draw INR on ___
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Coronary artery disease
-In-stent restenosis
-Atrial fibrillation, with
-Long term use of anticoagulants
-Tachycardia
-Hypertension
-Hyperlipidemia
-Gastroesophageal reflux disease
-Sleep apnea
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
___,
It was a pleasure taking care of you during your stay at ___. 
You were admitted with chest pain after you had a positive 
stress test at ___. You had a cardiac catherization which 
showed a blockage of the artery of your heart. You had a stent 
that was placed and were started on plavix. It is important you 
follow up with your cardiologist as an outpatient. We wish you 
the best

Sincerely,
Your ___ team
 
Followup Instructions:
___